US07030118B2
B) 5-Chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one
A mixture of 1-amino-3-chloro-1H-pyrrole-2-carboxylic acid methyl ester, hydrochloride salt (11.0 g, 52.1 mmol) and trifluoroacetic acid (6.0 mL, 77.9 mmol) in acetonitrile (230 mL) was heated at 85° C. overnight. The reaction mixture was concentrated and treated with fresh acetonitrile (200 mL) and triethylamine (22.0 mL, 157.8 mmol). The reaction mixture was heated at 85° C. overnight and concentrated to small volume and diluted with water (100 mL). The mixture was then stirred at rt for 20 min. The precipitate was collected, washed with water and dried to give the title compound as a brown solid (7.67 g, 80%): 1H NMR (CD3OD): δ 7.28 (s, 1H), 6.42 (s, 1H), 2.20 (s, 3H); MS (ESI+) 184.02, 186.10 (M++H).

reactant | 1-amino-3-chloro-1H-pyrrole-2-carboxylic acid methyl ester, hydrochloride salt | 52.1 mmol, 11.0 g | Cl.COC(=O)C=1N(C=CC1Cl)N
reactant | trifluoroacetic acid | 77.9 mmol, 6.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 157.8 mmol, 22.0 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 230 mL | C(C)#N | C2H3N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 5-Chloro-2-methyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 7.67 g, 80% | ClC=1C=CN2N=C(NC(C21)=O)C | C7H6ClN3O
